US06448290B1
2-Phenylsulfonylamino-5-chloro-1-nitrobenzene
To a solution of 2-nitro-4-chloroaniline (500 mg) and pyridine (2.1 ml in methylene chloride (10 ml), benzenesulfonylchloride (1.2 ml) was added dropwise at 0° C. under an atmosphere of argon. The reaction mixture was stirred for 3 days at room temperature. To the reaction mixture, water was added. The mixture was extracted with ethyl acetate. The organic layer was washed, dried over and concentrated under the reduced pressure. The reside was recrystallized from AcOEt-hexane mixture solvent to give the by-product. The mother liquor was concentrated under the reduced pressure. The residue was purified on silica gel column chromatography (AcOEt-hexane) and recrystallized from AcOEt-hexane mixture solvent to give the title compound (175 mg) having the following physical data.

reactant | 2-nitro-4-chloroaniline | 500 mg | [N+](=O)([O-])C1=C(N)C=CC(=C1)Cl | C6H5ClN2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonylchloride | 1.2 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Phenylsulfonylamino-5-chloro-1-nitrobenzene | 175 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C12H9ClN2O4S
